US08835432B2
(S)-4-amino-6-((1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)-ethyl)amino)pyrimidine-5-carbonitrile
A 3 L three-necked round bottom flask equipped with an overhead stirrer, nitrogen inlet and thermocouple was charged with (1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethanamine (130 g, 358 mmol), 4-amino-6-chloropyrimidine-5-carbonitrile (55.4 g, 358 mmol), butan-1-ol (920 mL) and N,N-diisopropylethylamine (187 mL, 1.08 mol). The reaction mixture was heated to an internal temperature of 95-100° C. for 6 h and then allowed to cool to rt overnight. After this time the reaction was heated to an internal temperature of 100° C. and then cooled to an internal temperature of 50° C. Ethyl acetate (−1.5 L) was added at 50° C. and the reaction was allowed to cool to rt. The resulting solution was washed with water (3×1 L), 10 wt % aq. NaHSO4 (4×1 L) and brine (1×500 mL). The separated organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting residue was suspended in toluene (1 L), evaporated in vacuo and dried under high vacuum for 36 h (247 g of crude material was obtained). The crude material was suspended in EtOAc (2 L), filtered and washed with a 10 wt % aqueous NaHSO4 solution (4×1 L). A white solid started to form in the EtOAc layer. A magnetic stir bar was added and the suspension was stirred at rt overnight and at 0° C. for 2 h. The white solid was isolated by filtration of the EtOAc and dried on a glass filter under a stream of nitrogen for two days, the EtOAc filtrate (filtrate A) was set aside. The white solid (51 g) was then suspended in EtOAc (2 L) and saturated aqueous NaHCO3 was added (1 L). The resulting suspension was stirred for 15 min resulting in a two layer mixture. The organic layer was separated, dried over MgSO4, filtered concentrated in vacuo to give the desired product. Filtrate A was then concentrated in vacuo, adsorbed on silica and purified by MPLC (DCM/MeOH+10% NH4OH: 100/0 to 90/10) to give 92 g of desired product. The two isolated products were combined and dissolved in EtOH (500 mL). The resulting solution was concentrated in vacuo. This process of dissolution in EtOH and concentration was repeated three times (3×500 mL). The resulting solid was ground (mortar and pestle) to a powder and dried in a vacuum oven (temperature: 90-100° C.) over P2O5 for 84 h. After this time the material was again ground, transferred to an oversized pan and dried under high vacuum at 100-110° C. for 24 h to give (S)-4-amino-6-((1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile (127.9 g). 1H NMR (DMSO-d6) δ ppm 8.06-8.20 (m, 3H), 7.96-7.77 (m, 5H), 7.64-7.65 and 6.79-6.80 (m, 1H), 7.28 (br.s., 2H), 5.42-5.45 (m, 1H), 3.32 and 3.22 (s, 3H), 1.51 and 1.40 (d, J=6.6 Hz, 3H). Mass Spectrum (ESI) m/z=480.0 (M+1). Karl Fisher and GC analysis of an analytical sample showed that the material contained 0.45 wt % of water and 0.55 wt % of EtOH.

reactant | (1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethanamine | 358 mmol, 130 g | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N)C1=C(C=CC=C1)S(=O)(=O)C | C17H16ClN3O2S
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 358 mmol, 55.4 g | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | butan-1-ol | 920 mL | C(CCC)O | C4H10O
reactant | N,N-diisopropylethylamine | 1.08 mol, 187 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
solvent | Ethyl acetate | −1.5 L | C(C)(=O)OCC | C4H8O2
product | (S)-4-amino-6-((1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)-ethyl)amino)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NC2=CC=CC(=C2N=C1C1=C(C=CC=C1)S(=O)(=O)C)Cl | C22H18ClN7O2S
